US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-(1-methoxy-1-methylethyl)-3-methylpiperidine
Prepared according to the procedure described for 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine except that 2-[1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]propan-2-ol was used instead of [1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]methanol.

reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)COC | C17H25NO3
reactant | 2-[1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]propan-2-ol | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)C(C)(C)O | C18H27NO3
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-(1-methoxy-1-methylethyl)-3-methylpiperidine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)C(C)(C)OC | C19H29NO3
